US08217065B2
A. 2-(2,6-Dichloro-phenyl)-3H-benzoimidazole-5-carbonitrile
In a 20 ml scint. vial was added 0.500 g (2.86 mmol) of 2,6-Dichloro-benzaldehyde, 0.3804 g (2.86 mmol) of 3,4-diamino-benzonitrile, and 6 mL DMSO. To the brown solution was added 0.1995 g (1.23 mmol) of FeCl3. Allowed stir at r.t. open to air for 18 h. Extracted with EtOAc and washed with water, and brine. Dried and purified on silica gel column chromatography (EtOAc/Hep, 1:9 to 7:3) to give of the title compound. 1H NMR (400 MHz, DMSO-d6) δ ppm 7.62-7.72 (m, 4 H) 7.79 (br. s., 1 H) 8.27 (br. s., 1 H) 13.48 (br. s., 1 H). MS (m/z) 288.1 M (+1), tR=1.18, Meth 10

reactant | 2,6-Dichloro-benzaldehyde | 2.86 mmol, 0.500 g | ClC1=C(C=O)C(=CC=C1)Cl | C7H4Cl2O
reactant | 3,4-diamino-benzonitrile | 2.86 mmol, 0.3804 g | NC=1C=C(C#N)C=CC1N | C7H7N3
solvent | DMSO | 6 mL | CS(=O)C | C2H6OS
product | 2-(2,6-Dichloro-phenyl)-3H-benzoimidazole-5-carbonitrile | ClC1=C(C(=CC=C1)Cl)C=1NC2=C(N1)C=CC(=C2)C#N | C14H7Cl2N3
